US07465726B2
{4-[4-(1-Methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-(4-methylpiperazin-1-yl)-methanone
To a suspension of (1-methyl-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride (78.1 mg, 0.172 mmol, 1 eq) in DMF (5 mL), DiPEA (180 μL, 1.0 mmol, 6 eq) was added. After cooling the suspension to 0° C., 4-methyl-1-piperazinecarbonyl chloride hydrochloride (28.6 mg, 0.170 mmol, 1 eq) in DMF (1.5 mL) was added and the reaction was stirred at 0° C. for 2 h. An additional 0.2 eq of 4-methyl-1-piperazinecarbonyl chloride hydrochloride (6.1 mg, 0.036 mmol) in DMF (1 mL) was added and the suspension was stirred again at 0° C. for 3 h. Still additional acid chloride was needed and 4-methyl-1-piperazinecarbonyl chloride hydrochloride (6.1 mg, 0.036 mmol, 0.2 eq) in DMF (1 mL) was added. After 5 h, the reaction was quenched/worked up as follows: reaction solution was added dropwise into water, filtered (M frit), washed with water and then EtOAc, and dried, giving the title compound as an off-white solid. 1H NMR (400 MHz, DMSO-d6): δ=2.19 (s, 3H), 2.31 (s, br, 4H), 2.44-2.55 (m, 2H), 3.17 (s, br, 4H), 3.40 (t, J=5.2 Hz, 2H), 3.92 (s, br, 2H), 4.03 (s, 3H), 6.38 (s, br, 1H), 6.75 (s, 1H), 7.60 (d, J=8.4 Hz, 1H), 7.69 (d, J=8.8 Hz, 1H), 8.01 (s, 1H), 8.25 (s, 1H), 8.38 (s, br, 1H), 9.33 (s, —NH), 11.89 (s, —NH). MS (ES+): m/z 472.14 (9) [MH+]. HPLC: tR=1.68 min (ZQ2000, polar—5 min).

reactant | (1-methyl-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride | 0.172 mmol, 78.1 mg, 1 eq | Cl.Cl.Cl.CN1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2
reactant | DiPEA | 1.0 mmol, 180 μL, 6 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-methyl-1-piperazinecarbonyl chloride hydrochloride | 0.170 mmol, 28.6 mg, 1 eq | Cl.CN1CCN(CC1)C(=O)Cl
reactant | 4-methyl-1-piperazinecarbonyl chloride hydrochloride | 0.036 mmol, 6.1 mg, 0.2 eq | Cl.CN1CCN(CC1)C(=O)Cl
reactant | 4-methyl-1-piperazinecarbonyl chloride hydrochloride | 0.036 mmol, 6.1 mg, 0.2 eq | Cl.CN1CCN(CC1)C(=O)Cl
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | {4-[4-(1-Methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-(4-methylpiperazin-1-yl)-methanone | CN1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)N2CCN(CC2)C | C25H29N9O
